* C:\users\mmetzler\Documents\Documents\Informatik\git\mmetzler-fes\LibreSpice\test\Blindleistungskompensation_Schalter.asc
* Generated by LTspice 26.0.2 for Windows.
V1 U 0 SINE(0 10 50)
R1 U N003 10
L1 N003 0 1H
C1 N002 0 10ÂµF
V2 UTrigger 0 PULSE(-5V 5V 0ms 1us 1us 900ms 1000ms)
X§U1 U U N001 0 UTrigger spdt2 ;§pnba COM)NC)NO)+)-
R2 N001 N002 1
.tran 0 1000ms 800ms uic
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\mmetzler\AppData\Local\LTspice\lib\sym\spdt2.asy)
.lib spdt2.lib
.backanno
.end
